US06903129B2
(R)-1-{6-[(R)-2-Methoxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl}-pyrrolidine-2-carboxylic acid methyl ester
A solution of diazomethane in diethylether (˜6 mmol) was added to a solution of 500 mg (1.5 mmol) (R)-1-[6-[(R)-2-carboxy-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid in 10 ml tetrahydrofuran. After stirring overnight methanol was added and the solvents were evaporated. The residue was taken up in dichloromethane, extracted with brine and dried with sodium sulfate. After separation from the solvent 400 mg (72%) (R)-1-{6-[(R) -2-methoxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl}-pyrrolidine-2-carboxylic acid methyl ester were obtained as a light yellow oil, MS m/e (%): 369 (M+H+, 100).

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | diethylether | ˜6 mmol | C(C)OCC | C4H10O
reactant | (R)-1-[6-[(R)-2-carboxy-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid | 1.5 mmol, 500 mg | C(=O)(O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)O)=O | C16H24N2O6
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (R)-1-{6-[(R)-2-Methoxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl}-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)OC)=O | C18H28N2O6
